US07465801B2
2-(5-Ethyl-1-oxy-pyridin-2-yl)-ethanol (16)
To a solution of 100 g (0.655 mol) 2-(5-ethyl-pyridin-2-yl)-ethanol in 500 mL acetic acid was added 118 g (1.049 mol) 30% hydrogen peroxide at 25-30° C. Reaction mixture was refluxed at 100° C. (tlc) for 14 hr. After completion of the reaction acetic acid was removed under vacuum, and the residual mass was poured in excess water and made alkaline by 10% Na2CO3 solution. Product was extracted with ethyl acetate and after concentrating ethyl acetate in vacuo, 89.58 g (81%) crystalline product was obtained.

reactant | 2-(5-ethyl-pyridin-2-yl)-ethanol | 0.655 mol, 100 g | C(C)C=1C=CC(=NC1)CCO | C9H13NO
reactant | hydrogen peroxide | 1.049 mol, 118 g | OO | H2O2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 2-(5-Ethyl-1-oxy-pyridin-2-yl)-ethanol | 89.58 g, 81% | CCC1=C[N+](=C(C=C1)CCO)[O-] | C9H13NO2
